US07700641B2
Synthesis of 1′-(4-methoxybenzyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 4-methoxybenzyl chloride to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (91%) as a white solid: mp 82-84° C.; 1H NMR (300 MHz, CDCl3) δ 7.32-6.80 (m, 9H), 6.68 (s, 2H), 5.06 (d, 1H), 5.03 (d, 1H), 4.80 (d, 1H), 4.77 (d, 1H), 3.80 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 171.1, 161.8, 159.4, 150.5, 142.3, 132.0, 129.2, 128.9, 127.7, 124.1, 124.0, 123.7, 122.2, 118.8, 114.4, 114.1, 109.7, 104.3, 80.9, 57.6, 55.4, 43.9; MS (ES+) m/z 442 (M+1).

reactant | 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | FC(OC1=CC2=C(C=C1)C1(C(NC3=CC=CC=C13)=O)CO2)(F)F | C16H10F3NO3
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-(4-methoxybenzyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | COC1=CC=C(CN2C(C3(C4=CC=CC=C24)COC2=C3C=CC(=C2)OC(F)(F)F)=O)C=C1 | C24H18F3NO4
